US05849735
6-([1,1'-Biphenyl]-4-ylcarbonyl]-1,4,5,6-tetrahydropyrazolo[4,3-d][1]benzazepine
As described for Example 26, 2 mmol of 1,4,5,6-tetrahydropyrazolo[4,3-d][1]benzazepine is reacted with 5 mmol of [1,1'-biphenyl]-4-carbonyl chloride. The product is stirred in methanol with 2N NaOH for 16 hours and the mixture concentrated and extracted with ethyl acetate. The extract is washed with 1M citric acid, NaHCO3, H2O, dried (Na2SO4) and the solvent removed to give the product of the example as a solid.

reactant | 1,4,5,6-tetrahydropyrazolo[4,3-d][1]benzazepine | 2 mmol | N1N=CC=2CCNC3=C(C21)C=CC=C3 | C11H11N3
reactant | [1,1'-biphenyl]-4-carbonyl chloride | 5 mmol | C1(=CC=C(C=C1)C(=O)Cl)C1=CC=CC=C1 | C13H9ClO
reactant | NaOH | 2N | [OH-].[Na+]
solvent | methanol | CO | CH4O
product | 6-([1,1'-Biphenyl]-4-ylcarbonyl]-1,4,5,6-tetrahydropyrazolo[4,3-d][1]benzazepine | C1(=CC=C(C=C1)C(=O)N1CCC2=C(C3=C1C=CC=C3)NN=C2)C2=CC=CC=C2 | C24H19N3O
